US04163801
Sodium borohydride was added in small portions to a methanolic solution of 4-chloro-2,6-diacetylphenol (5 g) until the colour was completely discharged. The solvent was removed by distillation under reduced pressure to give a white solid which was washed with water and dilute hydrochloric acid. The product, 2,6-bis(1-hydroxyethyl)-4-chlorophenol, was obtained as a pale yellow gum (4.5 g).

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 4-chloro-2,6-diacetylphenol | 5 g | ClC1=CC(=C(C(=C1)C(C)=O)O)C(C)=O | C10H9ClO3
product | 2,6-bis(1-hydroxyethyl)-4-chlorophenol | OC(C)C1=C(C(=CC(=C1)Cl)C(C)O)O | C10H13ClO3
